US04533664
1.23 g (4.5 mmols) of 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylic acid chloride-1,1-dioxide were dissolved in 10 ml of dimethylformamide, and 1.3 g (10 mmols) of 2-amino-6-chloro-pyrazine were added in portions thereto. The reaction mixture was stirred for 24 hours at room temperature and was then mixed with 40 ml of water. The aqueous mixture was stirred for 20 minutes at room temperature, and then the precipitate which had formed was filtered off, washed and dried. Recrystallization from dioxane yielded 0.4 g (24% of theory) of N-(6-chloro-pyrazin-2-yl)-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide.

reactant | 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylic acid chloride-1,1-dioxide | 4.5 mmols, 1.23 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)Cl | C10H8ClNO4S
reactant | 2-amino-6-chloro-pyrazine | 10 mmols, 1.3 g | NC1=NC(=CN=C1)Cl | C4H4ClN3
reactant | water | 40 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(6-chloro-pyrazin-2-yl)-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide | 0.4 g, 24% | ClC1=CN=CC(=N1)NC(=O)C=1N(S(C2=C(C1O)C=CC=C2)(=O)=O)C | C14H11ClN4O4S
